US04745198
A solution of 5(Z)-7- [2,4,5-cis]-2-methyl-4-phenyl-1,3-dioxan-cis-5-yl)heptenoic acid (500 mg.) in absolute ethanol (10 ml.) containing 5% w/w palladium on charcoal catalyst (100 mg.) was stirred under an atmospheric pressure of hydrogen for 3 hours. The catalyst was separated by filtration through kieselguhr and the filtrate was evaporated to give 5(Z) 7- [2,4,5-cis]-2-methyl -4-phenyl-1,3-dioxan-cis-5yl)heptanoic acid as a colourless oil in 99% yield; NMR: 0.8-1.8 (14H,m), 2.2 (2H,t,J=8 Hz), 3.8-4.25 (2H,m), 7.14-7.4 (5H,m) and 8.5-9.3 (1H,br)pm; m/e: 307 (M+ +H).

reactant | heptenoic acid | 500 mg | C(C=CCCCC)(=O)O | C7H12O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | heptanoic acid | 99% yield | C(CCCCCC)(=O)O | C7H14O2
